US07563805B2
7-[(7S)-7-Amino-7-methyl-5-azaspiro[2.4]heptan-5-yl]-1-cyclopropyl-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
A mixture of (7S)-7-(tert-butoxycarbonylamino)-7-methyl-5-azaspiro[2.4]heptane (524 mg, 2.31 mmol), 1-fluorocyclopropyl-7-fluoro-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (503 mg, 1.925 mmol), triethylamine (0.537 mL, 3.85 mmol), and dimethyl sulfoxide (6 mL) was stirred in nitrogen atmosphere in an oil bath at 75° C. for 5 days, and in an oil bath at 85° C. for 2 days. To the reaction mixture was added 10% aqueous solution of citric acid (10 mL), and the mixture was extracted with ethyl acetate (50 mL). The organic layer was washed with water (10 mL×2) and saturated aqueous solution of sodium chloride (10 mL), and dried with anhydrous sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (silica gel, 10 g; elusion by chloroform→chloroform:methanol, 98:2) to obtain a pale yellow foam solid. The purified pale yellow foam solid was dissolved in concentrated hydrochloric acid (8 mL) at room temperature, and after transferring the resulting acidic aqueous solution to a separatory funnel while washing with 6N hydrochloric acid, the solution was washed with chloroform (50 mL×8). To the aqueous layer was added 10 mol/l aqueous solution of sodium hydroxide to pH 12.0 in an ice bath, and hydrochloric acid was added to adjust the pH to 7.4. The solution was extracted with a mixed solvent of chloroform and methanol (chloroform:methanol, 9:1) (100 mL×3), and the organic layer was dried with anhydrous sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure. The concentrate was purified by recrystallization from ethanol, and dried under reduced pressure to obtain 268 mg (0.641 mmol, 2 steps, 33%) of the title compound as a pale yellow powder.

reactant | (7S)-7-(tert-butoxycarbonylamino)-7-methyl-5-azaspiro[2.4]heptane | 2.31 mmol, 524 mg | C(C)(C)(C)OC(=O)N[C@@]1(CNCC12CC2)C | C12H22N2O2
reactant | 1-fluorocyclopropyl-7-fluoro-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 1.925 mmol, 503 mg | FC1(CC1)N1C=C(C(C2=CC=C(C(=C12)C)F)=O)C(=O)O | C14H11F2NO3
reactant | triethylamine | 3.85 mmol, 0.537 mL | C(C)N(CC)CC | C6H15N
reactant | citric acid | 10 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | hydrochloric acid | 8 mL | Cl | ClH
solvent | dimethyl sulfoxide | 6 mL | CS(=O)C | C2H6OS
product | 7-[(7S)-7-Amino-7-methyl-5-azaspiro[2.4]heptan-5-yl]-1-cyclopropyl-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | N[C@@]1(CN(CC12CC2)C2=CC=C1C(C(=CN(C1=C2C)C2CC2)C(=O)O)=O)C | C21H25N3O3
